US06498163B1
A mixture of 8-ethyl-6-methyl-2-methylsulfinyl-8H-pyrido[2,3-d]pyrimidin-7-one (123 mg, 0.49 mmol) and 1 mL of aniline was heated at 175° C. for 20 minutes. The reaction was cooled to room temperature and partitioned between ethyl acetate and saturated sodium bicarbonate. The organic layer was washed with brine, dried over magnesium sulfate, filtered, and concentrated. Hexane was added to the residue, and the resultant solid was collected by filtration and purified by flash chromatography eluting with ethyl acetate to provide 21 mg (15%) of 8-ethyl-6-methyl-2-phenylamino-8H-pyrido[2,3-d]pyrimidin-7-one, mp 178-180° C.

reactant | 8-ethyl-6-methyl-2-methylsulfinyl-8H-pyrido[2,3-d]pyrimidin-7-one | 0.49 mmol, 123 mg | C(C)N1C(C(=CC2=C1N=C(N=C2)S(=O)C)C)=O | C11H13N3O2S
reactant | aniline | 1 mL | NC1=CC=CC=C1 | C6H7N
product | 8-ethyl-6-methyl-2-phenylamino-8H-pyrido[2,3-d]pyrimidin-7-one | 21 mg, 15% | C(C)N1C(C(=CC2=C1N=C(N=C2)NC2=CC=CC=C2)C)=O | C16H16N4O
